Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
seizure, right IPH
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ PMH ADD, ecstacy and cocaine use who presents after a GTC 
and
found to have right IPH on imaging.

Patient was driving when he developed left ear "beeping" that he
describes as the sound similar to when you put a vehicle in
reverse. He also reports a headache on his vertex and some
light-headedness. He remembers turning left to pull over, but
does not remember anything until waking up in ___ 
___.
Per EMS, he parked the car, got out and was screaming and then
fell to the ground and had convulsions and a bystander called
___. When he woke up, he knew he was in a hospital, and who he
was. He noticed jaw and tongue pain, and pain on his right hand.
He denies any headache, dizziness, visual changes, tinnitus,
speech difficulties, weakness, parasthesias. At the OSH he was
noted to have a lactate of 8.9, Cr 1.5, elevated prolactin and a
leukocytosis. NCHCT showed ~1cm right parietal IPH with 
vasogenic
edema and was transferred here. He was given 1gm of keppra at
___.

He denies any prior headaches, weight gain, weight loss, night
sweats, poor appetite. He states that he does ecstacy and
cocaine, with the last times being 3 weeks and 2 weeks ago,
respectively.

 
Past Medical History:
ADHD
 
Social History:
___
Family History:
Paternal uncle with ___ lymphoma
No FH of aneurysms, early stroke, seizure
 
Physical Exam:
Vitals: T 98.4 HR 79 BP 148/85 O2 98% RA 
General: Awake, cooperative, NAD.
HEENT: Lac on left forehead with ecchymosis. No scleral icterus
noted. MMM. Lac/contusion on left side of tongue
Cardiac: Well perfused. 
Pulmonary: Breathing comfortably on room air.
Extremities: No cyanosis, clubbing, or edema bilaterally. Right
knuckles with superficial lacerations, ecchymosis on dorsal 
hand.
Skin: No rashes or other lesions noted.

NEUROLOGIC EXAM:
Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There are no paraphasic errors.
Speech is not dysarthric. Able to follow both midline and
appendicular commands. Had good knowledge of current events.
There is no evidence of apraxia or neglect. Knows there is 7
quarters in $1.75

Cranial Nerves:
 I: Olfaction not tested.
 II: PERRL 3 to 2mm and brisk. VFF to confrontation and no
extinction. 
 III, IV, VI: EOMI without nystagmus. Normal saccades.
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing grossly intact to speech.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline and equal strength 
bilaterally.

-Motor: Normal bulk, tone throughout. 
   Delt Bic Tri WrE FFl FE IP Quad Ham TA ___
 L  5    ___   ___   5    5  5     5     5   5
 R  5    ___   ___   5    5  5     5     5   5

-Sensory: No deficits to gross touch throughout. No extinction 
to
DSS.

-DTRs:
   Bi Tri ___ Pat Ach 
 L  2  2    2    2   1   
 R  2  2    2    2   1  
 Plantar response was flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF or HKS. 

-Gait: deferred

DISCHARGE 
Vitals: afebrile, HR ___, BP 100s-120s/60s, 100% RA 

No acute distress, breathing comfortably on room air, 
extremities
warm and well-perfused, non-edematous.

Awake, alert, conversant.  Attentive throughout exam.  Language
fluent without errors.  EOM full range and conjugate. No
nystagmus. Face symmetric.  Full strength throughout. No
dysmetria on finger-nose-finger.
 
Pertinent Results:
___ 12:01AM BLOOD WBC-13.3* RBC-4.58* Hgb-14.1 Hct-42.5 
MCV-93 MCH-30.8 MCHC-33.2 RDW-12.5 RDWSD-42.8 Plt ___
___ 09:15PM BLOOD Glucose-112* UreaN-17 Creat-1.3* Na-139 
K-4.9 Cl-102 HCO3-19* AnGap-18
___ 09:15PM BLOOD ALT-25 AST-36 CK(CPK)-157 AlkPhos-69 
TotBili-0.4
___ 09:15PM BLOOD Lipase-22
___ 09:15PM BLOOD cTropnT-<0.01
___ 09:15PM BLOOD Albumin-4.5
___ 09:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

___ Cardiovascular Transthoracic Echo Report
o definite structural cardiac source of embolism identified. 
Preservedbiventricular systolic function. Normal pulmonary 
pressure

___ Imaging CT HEAD W/O CONTRAST
 
Re-identified right intraparenchymal hemorrhage of the 
frontoparietal region,
measuring 1.9 x 1.5 cm, similar compared to prior (02:15).  
Stable surrounding
vasogenic edema.  No midline shift.  No worsening hydrocephalus. 
 Basal
cisterns are patent.
 
There is no evidence of fracture.  The visualized portion of the 
paranasal
sinuses, mastoid air cells, and middle ear cavities are clear.  
The visualized
portion of the orbits are unremarkable.
 
IMPRESSION:
 
 
1. Stable intraparenchymal hemorrhage with surrounding vasogenic 
edema.  No
midline shift or worsening hydrocephalus.

___ Imaging MR HEAD W & W/O CONTRAS
FINDINGS: 
 
There is redemonstration of the 19 mm x 15 mm intraparenchymal 
hematoma in the
right temporal lobe, with surrounding edema.  The lesion 
demonstrates
peripheral T1 hyperintensity in keeping with subacute 
hemorrhage. There is
mild peripheral enhancement, which may be a reaction to the 
hematoma, if the
hemorrhage occurred several days prior to imaging.  If the 
hemorrhage occurred
___ days prior to imaging, this peripheral enhancement could 
more likely
represent underlying pathology.  A follow-up MRI Head is 
recommended.  There
is no evidence of infarction.   The ventricles and sulci are 
normal in caliber
and configuration.
 
There is mild mucosal thickening in the ethmoid air cells.
 
IMPRESSION: 
 
The right temporal lobe hematoma appears unchanged since the 
head CT of
___ and demonstrates mild peripheral enhancement.  If 
the hemorrhage
occurred ___ days prior to imaging, this peripheral enhancement 
could
represent an underlying mass.  If the hemorrhage recurred 
several days prior
to imaging, this enhancement may be a reaction to hemorrhage.  
Follow-up MRI
Head is advised.
 
RECOMMENDATION(S):  Follow-up MRI Head.

___ Imaging CAROTID/CEREBRAL BILAT
FINDINGS: 
 
Right radial artery: Vessel caliber smooth regular.  There is 
filling of the
radial artery retrograde filling into the brachial artery.  
There is filling
into the ulnar artery, anterior, and posterior interosseous 
arteries.  No
evidence of vasospasm or occlusion.
 
Right vertebral artery: Vessel caliber smooth and regular.  
There is filling
of the right vertebral artery.  There is an extracranial 
anastomoses with
occipital artery.  Intracranially the right vertebral artery 
fills into the
posterior inferior cerebellar artery.  There is retrograde 
filling into the
left vertebral artery.  Bilateral anterior-inferior cerebellar 
arteries,
bilateral superior cerebellar arteries, bilateral posterior 
cerebral arteries
and the distal territories fill.  No evidence of aneurysms or 
AVMs.
 
Right internal carotid artery: Vessel caliber smooth and 
regular.  There is
filling of the anterior and middle cerebral arteries and their 
distal
territories.  The ophthalmic artery is patent as is the 
posterior
communicating artery which fills into the posterior cerebral 
circulation.  No
aneurysms or AVMs are identified.
 
Left internal carotid artery: Vessel caliber smooth and regular. 
 There is
filling of the anterior and middle cerebral arteries and their 
distal
territory.  The ophthalmic artery and posterior communicating 
artery are
patent.
 
IMPRESSION:
 
 
1. Negative cerebral angiogram
 
Brief Hospital Course:
___ year old previously healthy man presented after having an 
auditory aura followed by a generalized convulsive seizure.

Presented initially to an outside hospital where he was found to 
have a right parietal intraparenchymal hemorrhage. He was 
started on levetiracetam and transferred to ___ for further 
evaluation. MRI did not show an underlying mass, but this is 
difficult to exclude given pre-contrast hyperintensity. The 
hemorrhage was stable on repeat head CT. Echocardiogram did not 
show evidence of endocarditis. He had a diagnostic cerebral 
angiogram that did not show any vascular malformation.

TRANSITIONAL ISSUES
- Repeat MRI with and without contrast in 3 months
- Continue levetiracetam 1.5 g BID until follow up with 
neurology
- Follow up with neurosurgery for evaluation of likely cavernoma

AHA/ASA Core Measures for Intracerebral Hemorrhage
1. Dysphagia screening before any PO intake? (x) Yes - () No. If 
no, reason why:
2. DVT Prophylaxis administered? () Yes - x() No. If no, why not 
(hemorrhage)
3. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form?
(x) Yes - () No
5. Assessment for rehabilitation and/or rehab services 
considered? () Yes - (x) No. If no, why not? (patient at 
baseline functional status)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  LevETIRAcetam 1500 mg PO Q12H 
RX *levetiracetam 750 mg 2 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*2 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right parietal intracerebral hemorrhage 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You came into the hospital because you had a seizure. You were 
found to have a bleed in your brain. You had several imaging 
studies to determine the cause of the bleed. However, we did not 
discover a definite cause. You were started on an anti-seizure 
medication, called levitiracetam (Keppra). 

When you leave the hospital, you should:
- Take all of your medications as prescribed 
- Attend all of your scheduled clinic appointments 
- Do not drive until 6 months seizure-free
- Do not partake in any activities that could endanger yourself 
or others due to a seizure (eg swim unattended, take baths in a 
locked room, climb ladders, etc.) 
- Avoid heavy lifting
- You should have a repeat MRI scan in 3 months 

It was a pleasure taking care of you, 
Your ___ care team 
 
Followup Instructions:
___